.title Power Supply Circuit - Fixed
.include "D:/projects/ups_boards/pcb1/models.lib"
.save all
.probe all

* Power Supply (ADDED!)
Vinput VCC GND 12V

* J1 Connector (3-pin header)
X1 __X1

* LM358 Op-Amp (FIXED: V+ = VCC)
XU1 Net_Q1_G Net_Q1_S Net_U1A_P GND VCC LM358

* Feedback Network
Rb1 Net_U1A_P GND 56
R1 VCC Net_D1_K 1k
Ra1 Net_D1_K Net_U1A_P 2k
D1 Net_D1_K GND DZENER_3V3

* Current Sense
RSense1 Net_Q1_S GND 0.01
R4 GND Net_Q1_G 470k

* MOSFET: DRAIN, GATE, SOURCE, SUBSTRATE (FIXED!)
MQ1 load Net_Q1_G Net_Q1_S NC Q1_0 IRFZ44N

* Output Capacitors
C1 VCC load 4700u
C3 VCC load 4700u
C2 VCC load 4700u

* LED Indicator
D2 load Net_D2_A LED_GENERIC
R2 VCC Net_D2_A 1k

* Initial conditions for faster convergence
.ic V(load)=0V V(VCC)=12V

.end