* ============================================
* SPICE Models for Power Supply Circuit
* File: models.lib
* ============================================

* --------------------------------------------
* Diode Models
* --------------------------------------------

* Standard Diode (1N4148)
.model 1N4148 D(IS=1e-12 RS=0.1 N=1.8 TT=1e-8 CJO=4e-12 VJ=0.7 M=0.5 EG=1.11 XTI=3)

* Zener Diode (3.3V, 500mA)
.model DZENER_3V3 D(IS=1e-12 RS=0.1 N=1.8 BV=3.3 IBV=0.01 TT=1e-8 CJO=50e-12 VJ=0.7 M=0.5 EG=1.11 XTI=3)

* LED Model (Red LED)
.model LED_RED D(IS=1e-15 RS=0.5 N=2.0 EG=1.8 CJO=10e-12 VJ=2.0 M=0.5 TT=1e-8)

* LED Model (Generic)
.model LED_GENERIC D(IS=1e-15 RS=0.5 N=2.0 EG=1.7 CJO=10e-12 VJ=1.8 M=0.5 TT=1e-8)

* --------------------------------------------
* MOSFET Models - Ngspice Compatible
* --------------------------------------------

* IRFZ44N N-Channel Power MOSFET
.model IRFZ44N NMOS(VTO=3.0 KP=50 LAMBDA=0.01 RD=0.01 RS=0.01 CGSO=1e-9 CGDO=1e-9 CBD=500e-12 IS=1e-15 PHI=0.6 UO=600 RSH=0.001 TOX=100e-9)

* IRF540N N-Channel Power MOSFET
.model IRF540N NMOS(VTO=3.5 KP=40 LAMBDA=0.01 RD=0.008 RS=0.008 CGSO=1.2e-9 CGDO=1.2e-9 CBD=600e-12 IS=1e-15 PHI=0.6 UO=600 RSH=0.001 TOX=100e-9)

* --------------------------------------------
* J1 Model - CHOOSE ONE OPTION (UNCOMMENT ONLY ONE)
* --------------------------------------------

* OPTION 1: If J1 is a MOSFET
.model J1 NMOS(VTO=3.0 KP=50)

* OPTION 2: If J1 is a JFET
*.model J1 NJF(VTO=-2.0 BETA=1e-3)

* OPTION 3: If J1 is a connector (subcircuit)
*.subckt J1 1 2
*R1 1 2 0.001
*.ends J1

* --------------------------------------------
* Operational Amplifier Models
* --------------------------------------------

* LM358 Simplified Model
.subckt LM358 1 2 3 4 5
Rin 2 3 1e12
Rcm1 2 4 1e12
Rcm2 3 4 1e12
Gdiff 10 0 3 2 100000
Rdiff 10 0 1e6
Ccomp 10 11 10pF
Rcomp 10 11 1k
Gout 1 4 11 0 0.01
Rout 1 4 100
Dclamp1 1 12 DMOD
Dclamp2 13 1 DMOD
Vclamp1 12 4 2.5
Vclamp2 4 13 2.5
Vlimit 5 14 0.5
Rlimit 14 1 1000
.model DMOD D(IS=1e-15)
.ends LM358

* --------------------------------------------
* End of Models
* --------------------------------------------